Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / Bactrim / hydralazine / Tetanus Vaccines & 
Toxoid
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of hypertension and 
hyperlipidemia who presents with syncope. Patient reports she 
had a temporal artery biopsy earlier today for 2 weeks of 
weakness and "not feeling peppy". She was also started on 
prednisone 60mg due to elevated CRP. After returning from the 
procedure, the patient was sitting in the kitchen when she felt 
lightheaded then passed out in her seat. She estimates she lost 
consciousness for about 30 seconds. Her son, who was in the 
other room called EMS and laid the patient down on the floor. 
Patient denies feeling confused when she regained consciousness 
but did have urinary incontinence. At baseline, the patient is 
active and is able to ambulate without any lightheadedness or 
dizziness. She reports adequate PO intake and was not fasting 
for the temporal artery biopsy.  
 Patient reported an episode of syncope in ___. She had ___ 
days of lightheadedness and lost consciousness while eating 
dinner. She was brought to ___ and diagnosed 
with influenza. No further workup was completed at that time. 
Stress echo done in ___ showed "prominence of the basal 
septum, a common finding in older individuals, measuring 1.6cm. 
Minor LVOT obstruction, no clear ___. The patient did not have 
any symptoms during stress echo. It was felt her syncopal 
episode was secondary to the flu and dehydration.  
 
Past Medical History:
 - Hypertension  
 - Hyperlipidemia  
 - History of breast cancer  
 - Osteopenia  
 - Urethral disorder  
 - History of diffiuclt intubation  
 - Disc displacement  
 - Hearing loss  
 
Social History:
___
Family History:
Mother had diabetes. Father had peripheral vascular disease. 
 
Physical Exam:
Admission exam
VS: 98.2 148/95 91 18 97RA 61.1kg  
 GENERAL: Comfortable appearing. No acute distress.  
 HEENT: NCAT. Sclera anicteric. Moist mucous membranes. 
Oropharynx clear.  
 NECK: Supple with JVP of ~7cm while at 45 degrees.  
 CARDIAC: RRR, normal S1, S2. ___ systolic murmur loudest at 
LLSB, which increases with valsalva. +Radiation to carotids.  
 LUNGS: Clear to auscultation bilaterally. No wheezes, crackles, 
or rhonchi.  
 ABDOMEN: +BS, soft, nondistended, nontender to palpation.  
 EXTREMITIES: Warm and well perfused. Pulses 2+. No peripheral 
edema.  

Discharge Exam
VS -  97.5 154/85 88 18 99%RA
General:  Adult female in NAD, AAOx3
HEENT:  NCAT, PERRL, EOMI
Neck:  No LAD, supple
CV:  RRR with ___ systolic murmur heard best at apex
Lungs:  CTAB without wheezes
Abdomen:  Soft, BS+, NTND
Ext:  WWP without edema
Neuro:  CNII-XII intact, moving all extremities
Skin:  No rashes or lesions
 
Pertinent Results:
Admission labs
___ 01:35PM BLOOD WBC-13.6* RBC-3.99 Hgb-11.5 Hct-36.6 
MCV-92 MCH-28.8 MCHC-31.4* RDW-13.6 RDWSD-45.2 Plt ___
___ 01:35PM BLOOD Neuts-80.1* Lymphs-12.5* Monos-6.3 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.85* AbsLymp-1.70 
AbsMono-0.85* AbsEos-0.02* AbsBaso-0.03
___ 01:35PM BLOOD Glucose-107* UreaN-24* Creat-0.8 Na-136 
K-4.2 Cl-98 HCO3-27 AnGap-15
___ 01:35PM BLOOD ALT-19 AST-18 AlkPhos-74 TotBili-0.2
___ 01:35PM BLOOD cTropnT-<0.01
___ 07:55PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD Calcium-9.8 Phos-2.9 Mg-2.1
___ 01:47PM BLOOD Lactate-2.2*

Imaging
CT C-SPINE (___)  
 1. No acute cervical spine fracture or acute malalignment.  
 2. Multilevel degenerative changes throughout cervical spine 
most prominent  
 from C3 through C6 with mild canal narrowing at C5-C6.  

CT HEAD (___)  
 1. No acute intracranial abnormalities.  
 2. No acute fractures. Scalp laceration overlying the right 
temporal bone.  

CXR (___)  
 No acute cardiopulmonary process.  

TTE (___)  
 The left atrium is normal in size. There is moderate symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
a moderate resting left ventricular outflow tract obstruction. 
The gradient increased with the Valsalva manuever. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. There are three aortic valve leaflets. The aortic valve 
leaflets are moderately thickened. There is no aortic valve 
stenosis or regurgitation. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. There is borderline 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.  
 IMPRESSION: Moderate symmetric left ventricular hypertrophy 
with hyperdynamic systolic function. Moderate resting LVOT 
gradient which increases with Valsalva manuever. Mild mitral 
regurgitation. Borderline pulmonary hypertension.

Discharge labs:
___ 06:25AM BLOOD WBC-9.7 RBC-3.96 Hgb-11.3 Hct-36.8 MCV-93 
MCH-28.5 MCHC-30.7* RDW-13.8 RDWSD-46.9* Plt ___
___ 06:25AM BLOOD Glucose-104* UreaN-27* Creat-0.7 Na-138 
K-4.3 Cl-101 HCO___ AnGap-14
 
Brief Hospital Course:
Summary
___ year old female with history of hypertension who presents 
after a syncopal episode and found to have LVOT obstruction on 
TTE. Was started on metoprolol and discharged in good condition. 


Acute issues
# SYNCOPE
After undergoing a biopsy which confirmed temporal arteritis, 
the patient returned home and had a syncopal episode without 
prodrome. She was found to have worsening LVOT obstruction on 
TTE. EKG found severe T wave inversions without evidence of 
ischemia or arrhythmia. There was no evidence of cardiac 
arrhythmia on telemetry or EKG. Ortostatic vital signs were 
unremarkable. Patient received IV fluids and encouraged to 
increase her fluid intake. She was started on metoprolol XL 
25mg. Orthostatic VS were normal and she felt well. She was 
discharged to follow up with her cardiologist and her PCP.  

# LEUKOCYTOSIS (improved)
Patient denied fevers and infectious symptoms. CXR and UA 
negative. Patient recently started on prednisone which could 
explain elevated WBC count. Also possibly secondary to newly 
diagnosed temporal arteritis. 

Chronic issues
# HYPERTENSION
Continued home losartan 100mg but stopped HCTZ 12.5mg as could 
be contributing to dehydration. Patient will need to be 
monitored for fluid overload. Also added metoprolol as above. 
 
# TEMPORAL ARTERITIS
Diagnosed in ___ with jaw claudication. ESR and CRP 
elevated. S/p temporal artery biopsy on ___, results pending. 
Biopsy site healing well w/o signs of infection. Biopsy results 
consistent with temporal (Giant cell) arteritis. Continued 
prednisone 60mg po and will follow up with PCP and consider 
referral to Rheumatology.

# Transitional issues
1. Started metoprolol succinate 25mg per day as above. 
2. Continued prednisone 60mg daily with recommendation to see 
her PCP and potentially rheumatology if indicated. 
3. HCTZ was stopped to prevent future syncopal episodes. In 
combination with prednisone, this may lead to some degree of CHF 
and should be monitored. She was asked to weigh herself daily. 
She will also need her blood pressure monitored closely. 
# CODE: Full code, but Do not intubate 
# CONTACT: ___ (Son) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. PredniSONE 60 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. PredniSONE 60 mg PO DAILY 
4. Vitamin D 400 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Syncope
Left Ventricular Outflow Tract Obstruction 
Leukocytosis 

SECONDARY:
Temporal Arteritis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Your were admitted to the hospital for passing out. After some 
testing including an ultrasound of your heart, it was determined 
that this was due to an enlarged part of your heart muscle. Were 
started you on a medication called metoprolol to help prevent 
this from happening again. It will be important to follow up 
with your cardiologist for any additional testing that is 
needed. Please increase your fluid intake to keep yourself well 
hydrated. Please also see your PCP who may refer you to a 
rheumatologist for your temporal arteritis. Please also weigh 
yourself daily and call you doctor for changes > 3 pounds within 
a few days. 

It was a pleasure taking care of you, best of luck. 
Your ___ medical team
 
Followup Instructions:
___